US06376672B1
In analogy to the procedure described in example 1) (j) the (3S,4R,5R)-3-[(2S)-2-hydroxy-3-(toluene-4-sulfonyloxy)-propoxy]-5-(4-methoxy-naphthalen-2-ylmethoxy)-4-[4-[3-(2-nitro-phenoxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester was treated with sodium hydroxide solution in dimethylsulfoxide to yield the (3R,4R,5S)-3-(4-methoxy-naphthalen-2-ylmethoxy)-4-[4-[3-(2-nitro-phenoxy)-propoxy]-phenyl]-5-[(2R)-oxiranylmethoxy]-piperidine-1-carboxylic acid tert-butyl ester as light yellow foam; MS: 715 (M+H)+.

reactant | (3S,4R,5R)-3-[(2S)-2-hydroxy-3-(toluene-4-sulfonyloxy)-propoxy]-5-(4-methoxy-naphthalen-2-ylmethoxy)-4-[4-[3-(2-nitro-phenoxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H]([C@H](C1)OCC1=CC2=CC=CC=C2C(=C1)OC)C1=CC=C(C=C1)OCCCOC1=C(C=CC=C1)[N+](=O)[O-])OC[C@@H](COS(=O)(=O)C1=CC=C(C=C1)C)O | C47H54N2O13S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | (3R,4R,5S)-3-(4-methoxy-naphthalen-2-ylmethoxy)-4-[4-[3-(2-nitro-phenoxy)-propoxy]-phenyl]-5-[(2R)-oxiranylmethoxy]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H]([C@@H](C1)OC[C@@H]1OC1)C1=CC=C(C=C1)OCCCOC1=C(C=CC=C1)[N+](=O)[O-])OCC1=CC2=CC=CC=C2C(=C1)OC | C40H46N2O10
